US07855227B2
2-[[2-[4-(3-Fluoro-benzyloxy)-3-methoxy-phenyl]-ethyl]-isobutylamino]-N-methyl-acetamide hydrochloride
90 mg of 2-[2-[4-(3-Fluoro-benzyloxy)-3-methoxy-phenyl]-ethylamino]-N-methyl-acetamide (0.235 mmol) and 19 mg (0.263 mmol) of 2-methyl-propionaldehyde were dissolved in 6 ml of a dichloromethane/acetic acid (8:2, v:v) mixture and 1.5 ml of methanol. 100 mg (0.425 mmol) of (polystyrylmethyl)trimethylammonium cyanoborohydride (loading: 4.25 mmol/g) were added and the mixture was stirred at room temperature overnight. The resin was filtered and the solvent was removed. The crude product was purified by flash chromatography (dichloromethane/methanol/NH3 100:0:0→100:2:0.2 gradient v:v:v). The product was dissolved in anhydrous hydrochloric acid in ethyl acetate, the solvent was removed and the residue was triturated with diethyl ether. 80 mg (77% yield) of the title compound were isolated as a hygroscopic solid.

reactant | 2-[2-[4-(3-Fluoro-benzyloxy)-3-methoxy-phenyl]-ethylamino]-N-methyl-acetamide | 0.235 mmol, 90 mg | FC=1C=C(COC2=C(C=C(C=C2)CCNCC(=O)NC)OC)C=CC1 | C19H23FN2O3
reactant | 2-methyl-propionaldehyde | 0.263 mmol, 19 mg | CC(C=O)C | C4H8O
reactant | dichloromethane acetic acid | 6 ml | ClCCl.C(C)(=O)O
solvent | methanol | 1.5 ml | CO | CH4O
product | 2-[[2-[4-(3-Fluoro-benzyloxy)-3-methoxy-phenyl]-ethyl]-isobutylamino]-N-methyl-acetamide hydrochloride | 80 mg, 77% yield | Cl.FC=1C=C(COC2=C(C=C(C=C2)CCN(CC(=O)NC)CC(C)C)OC)C=CC1 | InChI=1S/C23H31FN2O3.ClH/c1-17(2)14-26(15-23(27)25-3)11-10-18-8-9-21(22(13-18)28-4)29-16-19-6-5-7-20(24)12-19;/h5-9,12-13,17H,10-11,14-16H2,1-4H3,(H,25,27);1H
